US07897589B2
Preparation of 5-(4Chloro-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazole-3-carboxylic acid piperidin-1-ylamide
N-Aminopiperidine (0.6 mL, 5.6 mmol) and triethylamine (4 mL) were dissolved in methylene chloride (25 mL) under nitrogen atmosphere. The resulting mixture was cooled to 0° C. and a solution of 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4,5-dihydro-pyrazole-3-carboxylic acid chloride in methylene chloride (15 mL) was added drop wise. The resulting reaction mixture was stirred at room temperature (approximately 25° C.) overnight. The reaction mixture was washed with water, followed by a saturated aqueous solution of sodium bicarbonate, again with water, dried over sodium sulfate, filtered and evaporated to dryness in a rotavapor. The resulting crude solid was crystallised from ethanol. The crystallised solid was removed via filtration and the mother liquors were concentrated to yield a second fraction of crystallised product. The two fractions were combined to give a total amount of 1.7 g (57% of theoretical yield) of the title compound having a melting point of 183-186° C.

reactant | N-Aminopiperidine | 5.6 mmol, 0.6 mL | NN1CCCCC1 | C5H12N2
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4,5-dihydro-pyrazole-3-carboxylic acid chloride | ClC1=CC=C(C=C1)C1CC(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)Cl | C16H10Cl4N2O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 5-(4Chloro-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazole-3-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=NN(C(C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C21H21Cl3N4O
